US09301951B2
(S)—N1-(2-(2-(2,5,8,11,14,17,20,23-octaoxapentacosan-25-ylcarbamoyl)piperidin-1-yl)ethyl)-N3-(4-(diethylamino)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)-N1-methylisophthalamide
To a mixture of (S)-1-(2-(methylamino)ethyl)-N-(2,5,8,11,14,17,20,23-octaoxapentacosan-25-yl)piperidine-2-carboxamide (0.145 mmol), 3-((4-(diethylamino)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)benzoic acid (0.12 mmol, 80 mg) and DIEA (0.6 mmol, 78 mg) in DMF (0.4 mL) was added HATU (0.145 mmol, 55 mg). The mixture was stirred at 60° C. for 1 h and purified by prep. HPLC to give a yellow solid (91 mg, 52%). MS (ES, m/z): 1124.38 [M+H]+.

reactant | (S)-1-(2-(methylamino)ethyl)-N-(2,5,8,11,14,17,20,23-octaoxapentacosan-25-yl)piperidine-2-carboxamide | 0.145 mmol | CNCCN1[C@@H](CCCC1)C(=O)NCCOCCOCCOCCOCCOCCOCCOCCOC | C26H53N3O9
reactant | 3-((4-(diethylamino)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)benzoic acid | 0.12 mmol, 80 mg | C(C)N(C1=CC(=C(C=C1)NC(=O)C=1C=C(C(=O)O)C=CC1)C1=NC=CC(=C1)C(NCC1=CC(=CC=C1)C(F)(F)F)=O)CC | C32H29F3N4O4
reactant | DIEA | 0.6 mmol, 78 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.145 mmol, 55 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 0.4 mL | CN(C)C=O | C3H7NO
product | (S)—N1-(2-(2-(2,5,8,11,14,17,20,23-octaoxapentacosan-25-ylcarbamoyl)piperidin-1-yl)ethyl)-N3-(4-(diethylamino)-2-(4-((3-(trifluoromethyl)benzyl)carbamoyl)pyridin-2-yl)phenyl)-N1-methylisophthalamide | 91 mg, 52% | COCCOCCOCCOCCOCCOCCOCCOCCNC(=O)[C@H]1N(CCCC1)CCN(C(C1=CC(C(=O)NC2=C(C=C(C=C2)N(CC)CC)C2=NC=CC(=C2)C(NCC2=CC(=CC=C2)C(F)(F)F)=O)=CC=C1)=O)C | C58H80F3N7O12
